US05624950
To a suspension of 27.6 g of 2-methoxyphenylmagnesium bromide in 60 cm' of tetrahydrofuran are added dropwise, at room temperature and with stirring, a solution of 4.7 g of (3aRS,5RS,7aSR)-5-acetoxy-2-benzyl-4-perhydroisoindolone in 90 cm3 of tetrahydrofuran. The reaction mixture is stirred at room temperature for 3 hours, treated with 200 cm3 of saturated aqueous ammonium chloride solution and taken up in 200 cm3 of ethyl ether and 100 g of ice. The organic phase is separated out after settling has taken place, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized in 80 cm3 of petroleum ether and then chromatographed on a column of silica gel (particle size 0.04-0.06 mm, diameter 1 cm, height 20 cm), eluting under a pressure of 0.5 bar of nitrogen with a mixture of dichloromethane and methanol (95/5 by volume) and collecting 25 cm3 fractions. Fractions 14 to 21 are combined and then concentrated to dryness under reduced pressure (2.5 kPa). 1.55 g of (3aRS,4RS,5RS,7aSR)-2-benzyl-4-(2-methoxyphenyl)-4,5-perhydroisoindolediol are obtained, melting at 140° C.

reactant | 2-methoxyphenylmagnesium bromide | 27.6 g | COC1=C(C=CC=C1)[Mg]Br
reactant | (3aRS,5RS,7aSR)-5-acetoxy-2-benzyl-4-perhydroisoindolone | 4.7 g | C(C)(=O)OC1C(C2CN(CC2CC1)CC1=CC=CC=C1)=O | C17H21NO3
reactant | ammonium chloride | 200 cm3 | [Cl-].[NH4+]
solvent | tetrahydrofuran | 90 cm3 | O1CCCC1 | C4H8O
solvent | ethyl ether | 200 cm3 | C(C)OCC | C4H10O
product | (3aRS,4RS,5RS,7aSR)-2-benzyl-4-(2-methoxyphenyl)-4,5-perhydroisoindolediol | 1.55 g | C(C1=CC=CC=C1)N1CC2CCC(C(C2C1)(O)C1=C(C=CC=C1)OC)O | C22H27NO3
